US05409943
N-(3-(Benzyloxy)-2-pyridyl)phenylacetamidine
A mixture of 2-amino-3-benzyloxypyridine (2.5 g, 12.5 mmol) and ethyl phenylacetimidate hydrochloride (2.5 g, 12.5 mmol) in ethanol (100 ml) was heated under reflux for 1 hour. The solvent was evaporated in vacuo, and the residue taken up in chloroform, washed with aqueous sodium bicarbonate, dried and the chloroform evaporated. Treatment with charcoal and recrystallisation from ethyl acetate/petroleum ether gave the product (0.62 g), m.p. 114°-116° C.

reactant | 2-amino-3-benzyloxypyridine | 12.5 mmol, 2.5 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | ethyl phenylacetimidate hydrochloride | 12.5 mmol, 2.5 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(3-(Benzyloxy)-2-pyridyl)phenylacetamidine | 0.62 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(CC1=CC=CC=C1)=N | C20H19N3O
